2143-08-30 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Afib with RVR
   24 Hour Events: Patient
s BP increased overnight
   Allergies:
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-29**] 10:00 PM
   Piperacillin - [**2143-8-30**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-30**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 95 (82 - 155) bpm
   BP: 118/54(71) {59/15(28) - 118/64(71)} mmHg
   RR: 27 (12 - 37) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,205 mL
                                                                    271 mL
   PO:
             TF:
   IVF:
                                                                  1,075 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    140 mL
   Urine:
                                                                    105 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,580 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: 3 L Nasal cannula
   SpO2: 90%
   ABG: ///15/
   Physical Examination
   GENERAL:  Oriented x3.
   NECK: unable to evaluate JVP
   CARDIAC: Harsh 3/6 systolic ejection murmur, RRR
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   tachypnic but unlabored, no accessory muscle use. Crackles in bases
   bilaterally
   ABDOMEN: Soft, NT, mildly distended. No HSM or tenderness.. No
   abdominial bruits.
   EXTREMITIES: R hip wound TTP
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  No edema
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   8.3 g/dL
   143 mg/dL
   2.4 mg/dL
   15 mEq/L
   4.3 mEq/L
   33 mg/dL
   113 mEq/L
   140 mEq/L
   26.7 %
   8.4 K/uL
        [image002.jpg] Cr: 1.7 BUN: 27  ([**8-29**])
   Hct: 27.3 ([**8-29**])
                             [**2143-8-30**]  04:56 AM
   WBC
   8.4
   Hct
   26.7
   Cr
   2.4
   Glucose
   143
   Other labs: Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   BCx ([**8-25**]) Pending
   Assessment and Plan
   ASSESSMENT AND PLAN [**Age over 90 211**] yo F w/ AS, diastolic HF presented to the CCU in
   cardiogenic shock in the setting of afib w/rvr.  Currently
   hemodynamically stable.
   .
   # RHYTHM: Pt. converted to sinus rhythm after DC cardioversion x1 along
   with amiodarone drip. Likely pt. will significantly benefit from being
   in sinus rhythm and every attempt should be made to maintain sinus
   rhythm given stiff ventricle and AS.
   - Amiodarone 0.5mg/min convert to PO in am -> Amiodarone 400mg PO BID
   - Restart metoprolol 37.5 mg TID
   - Hold home Diltiazem 240mg Daily
   - Given bleeding risk will not start coumadin at this time.
   - ASA 325mg Daily
   .
   # PUMP:  (Echo with LVEF > 55% and PCWP >18, [**2-1**]+ MR, Severe AS (valve
   area 0.8-1.0) per echo
questionable accuracy of severity as
   measurements may have been done incorrectly per cards fellow
moderate
   PA hypertension
    Pt. continued to have hypotension in sinus rhythm until around 0200
   MAPS 55 ->66 . Likely that atria are not working effectively yet and
   pt. with prolonged vasodilated from midazolam given for cardioversion.
   Peripheral pulses palpable and extremities warm. Mental status
   difficult to assess given midazolam and baseline dysarthria. O2 sats
   decreased w/ fluid administration, but CXR not showing worsening
   CHF
still O2 sats in the low 90
   - Will repeat CXR this AM as patient with increasing O2 requirements to
   rule out flash this AM
   - Will review echo with Dr. [**First Name (STitle) **] to assess AS severity
   - 80 mg Lasix IV this AM, FU I/O
   - Restart metoprolol as above.
   - Minimize fluid
   .
   Coronaries: No wall motion abnormalities seen on echo [**8-25**].
   .
   # Multifocal PNA: Diagnosis per medicine team. Will assess O2
   requirement when Pt. more euvolemic. No sputum cultures sent, CXR
   infiltrate appears to be improving.
   - Continue Abx Day [**7-7**] (vanc and [**Doctor Last Name 9151**]/tazo), started [**8-25**].
   - Sputum culture
   # Acute on Chronic Renal Insufficiency: Cr increased from 1.7 to 2.4.
   (Unsure of baseline)Likely pre-renal secondary to extensive hypotension
   yesterday. Will likely improve with adequate pressure and sinus rhythm.
   - Will continue to monitor with daily Cr
   - Ensure appropriate BP and sinus rhythm
   .
   #Anemia: Unsure of baseline.
   - Iron Studies
   .
   #Thrombocytopenia: Plts at 600 this AM.
   - Continue to follow.
   .
   # S/p Hip Fx: Fixation yesterday. Management per ortho team
   - Tylenol for pain control
   - Morphine for breakthrough if not hypotense
   - SubQ heparin for DVT PPx
   ICU Care
   Nutrition: Regular Low salt diet
   Glycemic Control:
   Lines: 2 PIVs
   20 Gauge - [**2143-8-29**] 06:12 PM
   22 Gauge - [**2143-8-29**] 06:12 PM
   Prophylaxis:
   DVT: Heparin SubQ
   Stress ulcer:  Omeprazole
   Comments:
   Communication:  Health care proxy: [**Name (NI) 212**] [**Name (NI) 633**] [**Telephone/Fax (1) 9145**]
   Contact: [**Name (NI) **] [**Last Name (NamePattern1) **] [**Name (NI) **] (neice) [**Telephone/Fax (1) 9146**]
   Code status: DNR / DNI
   Disposition: CCU for Now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:  First of all, she does not have
   anything resembling severe aortic stenosis.  Her AS is moderate at
   most.  Her LV is vigorous and hypertrophic (and stiff) and a reasonably
   enthusiastic effort should be made to keep her in sinus rhythm.
   However, I do not think she should get amiodarone for more than one
   month.  This is periop a-fib and should not require aggressive
   antiarrhythmic therapy once remote from the trigger.  Call out to floor
   today.
   Above discussed extensively with patient.
   DNR status discussed. DNR.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2143-8-30**]
   10:59 ------

2143-08-31 07:48:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint: Hypotension, decreased urine output, multifocal PNA
   24 Hour Events:
   - Oxycodone/Morphine started PRN, Morphine appeared to drop pressure.
   - Metoprolol 25mg TID and Amiodarone 400mg [**Hospital1 7**]
   - Given Lasix 80mg IV with poor output, 15cc - 25cc hour
   - Urine Microscopy, with lots of muddy brown casts
   - Iron Studies point toward anemia of chronic inflammation. Ferritin
   >[**2134**]
   - [**Name (NI) **] pt spiked fever 101.6. Pan cultured. CDiff Toxins sent.
   - 12
 1300, patient developed hypotension and decreased urine output.
   HR 68 and BP 80/40's. Improved to MAP of 60 later in the evening. Pulse
   controlled. While sepsis is consideration. Thought to be secondary to
   multiple changes in medications this AM.
   - Started IV Flagyl, at 1300, large smelly stools, Abdominal pain on
   exam.
   Allergies:
   Zithromax (Oral) (Azithromycin)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-29**] 10:00 PM
   Piperacillin - [**2143-8-31**] 04:28 AM
   Metronidazole - [**2143-8-31**] 05:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-8-30**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-8-30**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-31**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.7
C (98.1
   HR: 74 (63 - 97) bpm
   BP: 79/40(50) {74/38(47) - 145/67(85)} mmHg
   RR: 23 (20 - 32) insp/min
   SpO2: 94% on face tent at 15L
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.4 kg (admission): 73 kg
             Total In:
                                                                    865 mL
                                                                    273 mL
   PO:
             TF:
   IVF:
                                                                    865 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                    230 mL
                                                                      0 mL
   Urine:
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    635 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   GENERAL:  No answering questions this AM.  Appears to be in pain.
   NECK: unable to evaluate JVP
   CARDIAC: Harsh 3/6 systolic ejection murmur, RRR
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   tachypnic but unlabored, no accessory muscle use. Crackles in bases
   bilaterally
   ABDOMEN: Soft, NT, mildly distended. No HSM.
   EXTREMITIES: R hip wound TTP, Incision C/D/I yesterday when dressing
   changed.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  No edema
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   611 K/uL
   8.0 g/dL
   112 mg/dL
   3.7 mg/dL
   15 mEq/L
   4.5 mEq/L
   51 mg/dL
   112 mEq/L
   142 mEq/L
   27.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2143-8-30**]  04:56 AM
                             [**2143-8-30**]  08:08 PM
                             [**2143-8-31**]  05:24 AM
   WBC
   8.4
   8.3
   10.8
   Hct
   26.7
   28.7
   27.0
   Plt
   692
   590
   611
   Cr
   2.4
   3.3
   3.7
   Glucose
   143
   136
   112
   Other labs: Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:5.0 mg/dL
   C.DIFF A&B: Negative
    CXR ([**8-29**]): Bibasilar opacities greater on the left side, could be due
   to atelectasis or aspiration pneumonia. There is no CHF. There is no
   advancing pleural effusions or pneumothorax.
   Assessment and Plan
   [**Age over 90 211**] yo F w/ AS, diastolic HF presented to the CCU in cardiogenic shock
   in the setting of afib w/rvr.  Currently hemodynamically stable.
   .
   # RHYTHM: Pt. converted to sinus rhythm after DC cardioversion x1 along
   with amiodarone drip.  Sinus all day yesterday.
   - Amiodarone 400mg PO BID
   - Metoprolol 25  mg TID (decreased from previous [**3-4**] low BP)
   - Hold home Diltiazem 240mg Daily
   - Given bleeding risk will not start coumadin at this time
   - ASA 325mg Daily
   .
   # Hypotension: Likely secondary to multiple medication changes. BP
   seemed to decrease to MAPs of 50
s after morphine. However, sepsis and
   cardiogenic shock should also be considered. BP seemed to stabilize at
   approx. MAP 55-60 overnight.
   - Continue to monitor, no fluids given ATN and hypervolemic status.
   - Contact health care proxy to discuss central access, secondary health
   care proxy thought patient would not want lines.
   - Consider Neosynephrine for hypotension if central line placent
   possible
   - FU blood cultures, FU Urine cultures
   - Continue antibiotics
   - FU TTE due to concern for PE in this patient with increased JVP and
   hypotension
   .
   # Fever: spike temperature to 101.6 yesterday. Pt with resolving
   Pneumonia. Large smelly stool with some abdominal tenderness, Flagyl
   started. Patient afebrile without leukocytosis. Urine Cxs Negative.  C.
   Diff negative. Most likely secondary to blood in hip. Afebrile
   overnight.
   - Continue Vanc/Zosyn
   - Continue Flagyl
   - Blood cxs FU
   - Urine cxs FU
   .
   # Delirium: Likely secondary to acute renal and pain control issues.
   - Consider Haldol if delirium worsens
   .
   # PUMP:  (Echo with LVEF > 55% and PCWP >18, [**2-1**]+ MR, Severe AS (valve
   area 0.8-1.0)  Reviewed ECHO with Dr. [**First Name (STitle) **] who notes moderate aortic
   stenosis. Poor output with lasix.
   - FU TTE from this am
   - FU CXR this AM
   - Restart metoprolol as above.
   - Minimize fluid
   .
   #Coronaries: No wall motion abnormalities seen on echo [**8-25**].
   .
   # Multifocal PNA: Diagnosis per medicine team. Pt still with
   significant O2 requirement.  No sputum cultures sent, CXR infiltrate
   appears to be improving. Spike temperature [**8-30**] (101.6)
   - Continue Abx Day [**8-6**] (vanc and [**Doctor Last Name 9151**]/tazo), started [**8-25**].
   - Sputum culture
   # Acute on Chronic Renal Insufficiency: Crt 3.3 this morning. ATN sp
   hypotension.
   - Will continue to monitor with daily Cr
   - Ensure appropriate BP and sinus rhythm
   .
   #Anemia: Anemia of chronic disease. Stable overnight.
   .
   #Thrombocytosis: Plts at 611 this AM.  Has been stable during this
   admission.
   - Continue to follow.
   .
   # S/p Hip Fx: Fixation yesterday. Management per ortho team
   - Tylenol for pain control
   - Oxycodone for pain, as morphine drops her BP
   - SubQ heparin for DVT PPx
   ICU Care
   Nutrition: Regular Low salt diet
   Glycemic Control:  None
   Lines: 2 PIVs
   20 Gauge - [**2143-8-29**] 06:12 PM
   22 Gauge - [**2143-8-29**] 06:12 PM
   Prophylaxis:
   DVT: Heparin SubQ
   Stress ulcer:  Omeprazole
   Comments:
   Communication:  Health care proxy: [**Name (NI) 212**] [**Name (NI) 633**] [**Telephone/Fax (1) 9145**]
   Contact: [**Name (NI) **] [**Last Name (NamePattern1) **] [**Name (NI) **] (neice) [**Telephone/Fax (1) 9146**]
   Code status: DNR / DNI
   Disposition: CCU for Now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:  echocardiogram shows dilated
   hypocontractile right ventricle and a small hyperdynamic left
   ventricle.  These findings, given the clinical setting are highly
   suggestive of acute pulmonary embolism postop hip surgery, and we will
   start heparin.  However she remains DNR and her overall prognosis
   remains very poor.
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2143-8-31**]
   11:35 ------